US08008305B2
2-(3-Morpholin-4-yl-propylamino)-N-phenethyl-nicotinamide
The title compound was prepared in analogy to example 1, but starting from 2-chloro-nicotinic acid methyl ester and subsequently using 3-morpholin-4-yl-propylamine in the first step and phenethylamine in the third step.

reactant | 2-chloro-nicotinic acid methyl ester | COC(C1=C(N=CC=C1)Cl)=O | C7H6ClNO2
reactant | 3-morpholin-4-yl-propylamine | N1(CCOCC1)CCCN | C7H16N2O
reactant | phenethylamine | C(CC1=CC=CC=C1)N | C8H11N
product | 2-(3-Morpholin-4-yl-propylamino)-N-phenethyl-nicotinamide | N1(CCOCC1)CCCNC1=C(C(=O)NCCC2=CC=CC=C2)C=CC=N1 | C21H28N4O2
